US09255094B2
Preparation of 2,3,8-trimethyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound No. 1-45)
To a solution of 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 0.935 mmol) in N-methyl-2-pyrolidone (2.5 mL) was added powdered KOH (463 mg, 8.27 mmol) and stirred for 10 min at RT. 2-Trifluoromethyl-5-vinyl pyridine (300 mg, 1.73 mmol) was added and stirred further for 4 h at RT. The reaction was monitored by TLC. After completion of reaction, water (10 mL) was added to the mixture, which was then filtered. Water was added to the filtrate, which was then extracted with EtOAc (50 mL). The organic layer was dried over sodium sulfate, concentrated in vacuum and the residue purified by column chromatography (100-200 mesh silica gel) to obtain 20 mg of desired compound. The free base compound was converted into the oxalate salt. 1HNMR (CDCl3, Freebase) d (ppm): 8.40 (s, 1H), 7.45 (d, 1H), 7.25 (m, 2H), 7.10 (d, 1H), 6.98 (d, 1H), 4.22 (t, 2H), 3.82 (d, 1H), 3.62 (d, 1H), 3.50 (m, 1H), 3.10 (t, 2H), 2.80 (m, 1H), 2.45 (s, 3H), 2.38 (s, 3H), 2.10 (dd, 1H), 1.10 (d, 3H).

reactant | 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.935 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1C | C14H18N2
reactant | KOH | 8.27 mmol, 463 mg | [OH-].[K+]
reactant | 2-Trifluoromethyl-5-vinyl pyridine | 1.73 mmol, 300 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | water | 10 mL | O | H2O
solvent | N-methyl-2-pyrolidone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
product | 2,3,8-trimethyl-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 20 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C(F)(F)F)CC1C | C22H24F3N3
